US06132760
Preparation of Isooctyl Acrylate/Acrylamide/Vinyl Acetate 73/7/20 Copolymer
A master batch was prepared by mixing isooctyl acrylate (1233.75 g), acrylamide (118.125 g), vinyl acetate (337.500 g) and 2,2'-azobis(2-methylbutanenitrile) (1.6875 g). A portion (225.475 g) of the master batch, ethyl acetate (257.7) and methanol (28.6 g) were placed in a 1 liter amber bottle. The mixture was deoxygenated by purging with nitrogen (1 L/min) for 2 minutes. The bottle was sealed and placed in a rotating water bath at 57° C. for 24 hours. The bottle was removed, opened, and then charged with ethyl acetate (214.8 g) and methanol (23.8 g). The contents were mixed until uniform (usually overnight). The percent solids of the resulting copolymer solution was 26.4. The inherent viscosity was 1.47 dl/g in ethyl acetate at 0.15 g/dl.

reactant | isooctyl acrylate | 1233.75 g | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | acrylamide | 118.125 g | C(C=C)(=O)N | C3H5NO
reactant | vinyl acetate | 337.500 g | C(C)(=O)OC=C | C4H6O2
reactant | 2,2'-azobis(2-methylbutanenitrile) | 1.6875 g | N(=NC(C#N)(CC)C)C(C#N)(CC)C | C10H16N4
solvent | methanol | 28.6 g | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Isooctyl Acrylate Acrylamide Vinyl Acetate | C(C=C)(=O)OCCCCCC(C)C.C(C=C)(=O)N.C(C)(=O)OC=C | InChI=1S/C11H20O2.C4H6O2.C3H5NO/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-3-6-4(2)5;1-2-3(4)5/h4,10H,1,5-9H2,2-3H3;3H,1H2,2H3;2H,1H2,(H2,4,5)
